US07053089B2
(3-Methyl-pyrazin-2-yl)-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amine
EXAMPLE 97 was prepared from C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine and 3-bromo-pyrazine-2-carboxylic acid methyl ester followed by reduction with lithium tri-sec-butylborohydride at 0° C. in THF: MS (m+1)=375.5.

reactant | C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CN | C14H22N2O2S
reactant | 3-bromo-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=CN=C1Br | C6H5BrN2O2
reactant | lithium tri-sec-butylborohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
solvent | THF | C1CCOC1 | C4H8O
product | (3-Methyl-pyrazin-2-yl)-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amine | CC=1C(=NC=CN1)NCC1CCN(CC1)S(=O)(=O)CCC1=CC=CC=C1 | C19H26N4O2S
